US08536165B2
5-Bromo-2-(3-ethoxyphenyl)-3-methylpyridine
Obtained (1.30 g, yield 37%) following the procedure described in Intermediate 27, starting with 2,5-dibromo-3-methylpyridine (11.96 mmol, 3.0 g), 3-ethoxyphenylboronic acid (11.96 mmol, 1.98 g).

reactant | 2,5-dibromo-3-methylpyridine | 11.96 mmol, 3.0 g | BrC1=NC=C(C=C1C)Br | C6H5Br2N
reactant | 3-ethoxyphenylboronic acid | 11.96 mmol, 1.98 g | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 5-Bromo-2-(3-ethoxyphenyl)-3-methylpyridine | yield 37% | BrC=1C=C(C(=NC1)C1=CC(=CC=C1)OCC)C | C14H14BrNO
